US08067408B2
1,1-Dimethylethyl [(5-bromo-2-methylphenyl)methyl]carbamate
NaBH4 (2.4 g, 64.3 mmol) was added cautiously to a solution of NiCl2 (2.8 g, 21.6 mmol), Boc2O (9.6 g, 44.0 mmol) and 5-bromo-2-methylbenzonitrile (4.2 g, 21.4 mmol) in EtOH (150 mL) at 0° C. within 0.5 h, then stirring for another 40 min after the end of addition. After the reaction had subsided, the mixture was left to stir at room temperature for 0.5 h. Then the solvent was removed and the residue was dissolved in AcOEt and saturated solution of NaHCO3, then filtered and washed with AcOEt. The combined organic layers were washed with brine and dried over Na2SO4. The crude product was purified by flask chromatograph (PE:EA=30:1), obtaining 2.7 g of the product, 1,1-dimethylethyl [(5-bromo-2-methylphenyl)methyl]carbamate, as a white solid (Yield: 42%). 1H NMR (400 MHz, CDCl3): δ 7.36 (s, 1 H), 7.28-7.30 (m, 1 H), 7.01 (d, J=16.8 Hz, 1 H), 4.72 (s, 1 H), 4.26-4.30 (m, 2 H), 2.25 (s, 3 H), 1.46 (s, 9 H); 13C NMR (100 MHz, CDCl3): δ 155.9, 139.1, 132.2, 130.6, 127.7, 126.3, 119.9, 42.4, 20.6, 18.7; HPLC: retention time: 4.671 min; purity: 97.2%.

reactant | NaBH4 | 64.3 mmol, 2.4 g | [BH4-].[Na+]
reactant | Boc2O | 44.0 mmol, 9.6 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 5-bromo-2-methylbenzonitrile | 21.4 mmol, 4.2 g | BrC=1C=CC(=C(C#N)C1)C | C8H6BrN
solvent | EtOH | 150 mL | CCO | C2H6O
catalyst | NiCl2 | 21.6 mmol, 2.8 g | Cl[Ni]Cl
product | 1,1-Dimethylethyl [(5-bromo-2-methylphenyl)methyl]carbamate | 2.7 g | BrC=1C=CC(=C(C1)CNC(OC(C)(C)C)=O)C | C13H18BrNO2
